US05272270
rel-(1S,2R)-1,2-bis(3',4'-dimethoxyphenyl)-2-[(2",2"-dimethoxyethyl)amino]ethanol Mixture:
57 g (0.17 mol) of 3,3',4,4'-tetramethoxy-stilbene oxide, 120 ml (1.1 mol) of aminoacetaldehyde dimethyl acetal, 1.5 l of dichloromethane, 80 ml of 2-butanol.

reactant | 3,3',4,4'-tetramethoxy-stilbene oxide | 0.17 mol, 57 g | COC=1C=C(C=CC1OC)C1C(C2=CC(=C(C=C2)OC)OC)O1 | C18H20O5
reactant | aminoacetaldehyde dimethyl acetal | 1.1 mol, 120 ml | COC(CN)OC | C4H11NO2
reactant | dichloromethane | 1.5 l | ClCCl | CH2Cl2
solvent | 2-butanol | 80 ml | CC(CC)O | C4H10O
product | rel-(1S,2R)-1,2-bis(3',4'-dimethoxyphenyl)-2-[(2",2"-dimethoxyethyl)amino]ethanol | COC=1C=C(C=CC1OC)[C@@H]([C@H](NCC(OC)OC)C1=CC(=C(C=C1)OC)OC)O | C22H31NO7
